US07307172B2
Preparation of 7-cyclopentylamino-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine
With stirring, a mixture of 0.13 g (1.5 mmol) of cyclopentylamine and 0.15 g (1.5 mmol) of triethylamine in 10 ml of methylene chloride was added to a mixture of 0.52 g (1.5 mmol) of 7-chloro-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine (cf. Ex. 8) in 20 ml of methylene chloride. The reaction mixture was stirred at room temperature for 16 h, work-up was carried out analogously to Ex. 3. This gave 0.52 g (1.3 mmol) of the title compound (melting point 81° C.).

reactant | cyclopentylamine | 1.5 mmol, 0.13 g | C1(CCCC1)N | C5H11N
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 1.5 mmol, 0.52 g | ClC1=C(C(=NC=2N1N=CN2)C2=CC=CC=C2)CCCCCCCC | C19H23ClN4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-cyclopentylamino-6-octyl-5-phenyl-[1,2,4]-triazolo-[1,5-α]-pyrimidine | 1.3 mmol, 0.52 g | C1(CCCC1)NC1=C(C(=NC=2N1N=CN2)C2=CC=CC=C2)CCCCCCCC | C24H33N5
